US08003669B2
(RS)-1-[1-(acenaphthen-1-yl)piperidin-4-yl]-1,3-dihydro-2H-benzoimidazol-2-one
Acenaphthen-1-one (1.68 g, 10 mmol) was dissolved in tetrahydrofuran (THF, 15 ml). 4-(2-Keto-1-benzoimidazolinyl)piperidine (2.17 g, 10 mmol) and tetraisopropyl orthotitanate (3.4 g, 12 mmol) were added and the mixture was stirred at room temperature for 20 hr. The solvent was evaporated and a mixed solvent (15 ml) of THF/ethanol (1:2) was added to the obtained residue for dissolution. Sodium cyanoborohydrate (2.1 mmol) was added to this solution, and the mixture was stirred at stirred at room temperature for one day. Water was added, and the precipitate was removed by celite filtration and washed with ethanol. The filtrate was extracted with chloroform and washed with water and saturated brine. The extract was dried over sodium sulfate, and concentrated. The obtained residue was purified by silica gel column chromatography (chloroform/methanol) to give the title compound (0.68 g) as yellow crystals.

reactant | Acenaphthen-1-one | 10 mmol, 1.68 g | C1(CC2=CC=CC3=CC=CC1=C23)=O | C12H8O
reactant | 4-(2-Keto-1-benzoimidazolinyl)piperidine | 10 mmol, 2.17 g | O=C1NC2=C(N1C1CCNCC1)C=CC=C2 | C12H15N3O
reactant | Sodium | 2.1 mmol | [Na] | Na
reactant | Water | O | H2O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
catalyst | tetraisopropyl orthotitanate | 12 mmol, 3.4 g | CC(C)[O-].CC(C)[O-].CC(C)[O-].CC(C)[O-].[Ti+4]
product | (RS)-1-[1-(acenaphthen-1-yl)piperidin-4-yl]-1,3-dihydro-2H-benzoimidazol-2-one | 0.68 g | C1(CC2=CC=CC3=CC=CC1=C23)N2CCC(CC2)N2C(NC3=C2C=CC=C3)=O | C24H23N3O
